US07935699B2
In a round bottom flask was placed (R)—N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionamide (128 mg, 0.25 mmol), ethanol (10 mL) and concentrated hydrochloric acid (2 drops). This solution was then stirred at 25° C. until all starting material is consumed (˜1 hr). The reaction was then diluted with ethyl acetate (30 mL) and transferred to a separatory funnel where it was washed with a saturated aqueous solution of sodium bicarbonate (10 mL). The aqueous layer was then extracted with ethyl acetate (3×10 mL). The organic layers were then combined dried over magnesium sulfate, filtered and concentrated in vacuo. Purification on an AnaLogix Intelliflash system (4 g column, 20% ethyl acetate/hexanes to 60% ethyl acetate/hexanes) afforded (R)-3-cyclopentyl-2-(3,4-dichloro-phenyl)-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-propionamide (89 mg, 90%) as a white foam: [α]30589=−22.2° (c=0.18, methylene chloride); ES-HRMS m/e calcd for C19H23N3O2Cl2 (M+H)+ 418.1059, observed 418.1061; 1H NMR (300 MHz, DMSO-d6) δ 1.10 (m, 2H, CH2), 1.35-1.79 (m, 8H, 4×CH2), 2.05 (m, 1H, CH), 3.67 (q, J=5.6 Hz, 2H, OCH2), 3.79 (m, 1H, ArCHCO), 4.00 (t, J=5.6 Hz, 2H, NCH2), 4.83 (t, J=5.4 Hz, 1H, OH), 6.40 (d, J=2.2 Hz, 1H, Ar), 7.34 (dd, Jm=2.0 Hz, Jo=8.2 Hz, 1H, Ar), 7.53 (d, J=2.2 Hz, 1H, Ar), 7.58 (d, Jo=8.2 Hz, 1H, Ar), 7.59 (s, 1H, Ar), 10.71 (s, 1H, NH).

reactant | (R)—N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionamide | 0.25 mmol, 128 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)Cl)Cl)=O)(C)C | C25H37Cl2N3O2Si
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (R)-3-cyclopentyl-2-(3,4-dichloro-phenyl)-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-propionamide | 89 mg, 90% | C1(CCCC1)C[C@@H](C(=O)NC1=NN(C=C1)CCO)C1=CC(=C(C=C1)Cl)Cl | C19H23Cl2N3O2
